US08633173B2
4-Methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-ylamine was prepared from 6-chloro-pyrazin-2-ylamine (1.00 g, 7.72 mmol) and 1-methylpiperazine (942 L, 8.49 mmol) combined in N,N-dimethylformamide (35 mL) and heated at 100° C. overnight. The reaction was poured into water and extracted with 3 portions of dichloromethane. The combined organic was dried over magnesium sulfate, filtered and evaporated to yield an off-white solid. This solid was purified via chromatography (silica gel 40 g methanol in dichloromethane). Product isolated as a tan oil that solidified upon standing. 1H NMR (400 MHz, (D3C)2SO, δ, ppm):7.33 (s, 1H), 7.16 (s, 1H), 5.93 (s, 2H), 3.40 (s, 4H), 2.36 (s, 4H), 2.20 (s, 3H).

reactant | 6-chloro-pyrazin-2-ylamine | 7.72 mmol, 1.00 g | ClC1=CN=CC(=N1)N | C4H4ClN3
reactant | 1-methylpiperazine | 8.49 mmol, 942 L | CN1CCNCC1 | C5H12N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 4-Methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-ylamine | CN1CCN(CC1)C1=NC(=CN=C1)N | C9H15N5
